US07741347B2
To a solution of 2-amino-1-(4-bromophenyl)ethanone hydrochloride salt (1.10 g, 4.39 mmol), (S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid (1.02 g, 4.73 mmol), and diisopropylethylamine (3.10 mL, 17.4 mmol) in DMF (20 mL) was added 3-(diethoxyphosphoryloxy)-(1,2,3)-benzotriazin-4(3H)-one (DEPBT, 2.0 g, 6.68 mmol) and the solution was allowed to stir for 2 hours. The mixture was poured into H2O-ethyl acetate and the layers were separated. The aqueous phase was extracted twice with ethyl acetate and the combined organic layers were washed (H2O×2, brine), dried (Na2SO4), and filtered. The solvent was removed in vacuo and the residue purified by flash column chromatography (1:1 hexanes:ethyl acetate) to provide (S)-tert-butyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)pyrrolidine-1-carboxylate (1.02 g, 56%) as a colorless foam. 1HNMR (400 MHz, DMSO-d6) δ 8.16-8.21 (m, 1H), 7.90-7.92 (m, 2H), 7.73-7.75 (m, 2H), 4.59 (dd, J=5.7, 18.4 Hz, 1H), 4.51 (dd, J=5.7, 18.4 Hz, 1H), 4.13-4.19 (m, 1H), 3.24-3.27 (m, 2H, partially obscured by H2O), 2.05-2.12 (m, 1H), 1.74-1.81 (m, 3H), 1.39 (s, 3H), 1.33 (3, 6H); LCMS: Anal. Calcd. for C18H23BrN2O4: 410. found: 411 (M+H)+.

reactant | 2-amino-1-(4-bromophenyl)ethanone hydrochloride salt | 4.39 mmol, 1.10 g | Cl.NCC(=O)C1=CC=C(C=C1)Br
reactant | (S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 4.73 mmol, 1.02 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | diisopropylethylamine | 17.4 mmol, 3.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(diethoxyphosphoryloxy)-(1,2,3)-benzotriazin-4(3H)-one | 6.68 mmol, 2.0 g | C(C)OP(=O)(OCC)ON1N=NC2=C(C1=O)C=CC=C2 | C11H14N3O5P
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O ethyl acetate | O.C(C)(=O)OCC
product | (S)-tert-butyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)pyrrolidine-1-carboxylate | 1.02 g, 56% | BrC1=CC=C(C=C1)C(CNC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C18H23BrN2O4
